US07410966B2
4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)-2-methoxyphenol
The title compound was prepared from 5-bromo-2,3-diaminopyridine and 4-hydroxy-3-methoxybenzaldehyde.

reactant | 5-bromo-2,3-diaminopyridine | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
reactant | 4-hydroxy-3-methoxybenzaldehyde | OC1=C(C=C(C=O)C=C1)OC | C8H8O3
product | 4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)-2-methoxyphenol | BrC=1C=C2C(=NC1)NC(=N2)C2=CC(=C(C=C2)O)OC | C13H10BrN3O2
